US05728695
(2-Methoxyphenyl)boronic acid
n-Butyl lithium (13.0 ml of a 1.6M solution in hexanes, 19.8 mmol) was added dropwise to a solution of 2-bromoanisole (3.74 g, 19.0 mmol) in anhydrous tetrahydrofuran (15 ml) cooled to below -70° C., maintaining the temperature during the addition below -60° C. The solution was stirred for 20 minutes before the addition of trimethyl borate (5.9 ml, 57.0 mmol), and then stirred at below -70° C. for a further hour before warming to room temperature overnight. The reaction mixture was cooled to 0° C. acidified to pH 5.0 with 5% aqueous hydrochloric acid solution (25 ml), the resulting layers separated and the aqueous phase extracted with ethyl acetate (2×25 ml). The combined orgnic layers were washed with brine (25 ml), dried (MgSO4) and concentrated in vacuo to yield the title compound as a white solid (2.9 g, 97%) which was used without further purification.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 2-bromoanisole | 19.0 mmol, 3.74 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | trimethyl borate | 57.0 mmol, 5.9 ml | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (2-Methoxyphenyl)boronic acid | 2.9 g, 97% | COC1=C(C=CC=C1)B(O)O | C7H9BO3
